US04678799
1,4-Dimethyl-2-(2-hydroxyethyl)-5-nitroimidazole
Paraformaldehyde (4.05 g, 0.135 mole) and 5-nitro-1,2,4-trimethylimidazole (4.2 g, 0.027 mole) were combined in 25 ml of DMSO and heated at 140° C. for 48 hours (24 hours are found to be optimum), in a 300 ml glass-lined bomb. The reaction mixture was then evaporated in vacuo at 80° C. to give a dark brown oil. This was dissolved in about 60 ml of water, 5 ml of concentrated ammonium hydroxide are added, and the mixture was extracted six times with 70 ml of ethyl acetate. The ethyl acetate layers were dried over sodium sulfate and evaporated to give 3.74 g of residue. The crude product was dissolved in 3% methanol/chloroform to give a final volume of 8 ml. This is chromatographed preparatively on a partisil M20/50 column, eluting with 3% methanol/chloroform at 10 ml/min., with 4×2 ml injections. The product eluting at 46-55 minutes was collected. Combining the cuts from the four injections and evaporation of solvent gave 600 mg. This major product was a yellow oil which crystallized only with difficulty. The material was rechromatographed preparatively on a Whatman ODS-3 column eluting with 25% Methanol/water at 10 ml/min. The major peak was collected, and the solvent was evaporated to give 390 mg of pale yellow oil which readily crystallized on cooling. This product was 1,4-dimethyl-2-(2-hydroxyethyl)-5-nitroimidazole.

reactant | Paraformaldehyde | 0.135 mole, 4.05 g | C=O | CH2O
reactant | 5-nitro-1,2,4-trimethylimidazole | 0.027 mole, 4.2 g | [N+](=O)([O-])C1=C(N=C(N1C)C)C | C6H9N3O2
reactant | ammonium hydroxide | 5 ml | [OH-].[NH4+]
solvent | DMSO | 25 ml | CS(=O)C | C2H6OS
solvent | water | about 60 ml | O | H2O
product | 1,4-Dimethyl-2-(2-hydroxyethyl)-5-nitroimidazole | 3.74 g | CN1C(=NC(=C1[N+](=O)[O-])C)CCO | C7H11N3O3
